data/mechanism_extracts/Angew/10.1002_anie.202304434.json
{"doi": "10.1002_anie.202304434", "journal": "Angew", "is_review": false, "rxn_class_summary": "Electrochemical [3+2] cycloaddition of nitromethane-derived dipoles with olefins to construct isoxazoline aldoximes", "mechanism_family": ["radical_anodic", "paired_electrolysis", "mediator_anodic"], "electrochemical_role": "Anodic oxidation of I- (from n-Bu4NI) to I•/I2 and of CF3CO2- to •CF3 + CO2; these radicals abstract H from a cathodically reduced nitromethane-derived intermediate (II). Cathode reduces deprotonated nitromethane (aci-form) cleaving N-O bond.", "key_intermediates": [{"name": "aci-nitromethane anion (CH2=NO2-) intermediate I", "smiles": "[O-]N(=O)C", "role": "reactive"}, {"name": "intermediate II (formaldehyde oxime anion / CH2=N-O-) after N-O cleavage and reduction", "smiles": null, "role": "reactive"}, {"name": "intermediate III: HC=N+(O-)(O-) type nitrile oxide/nitronate radical after HAT", "smiles": null, "role": "reactive"}, {"name": "1,2,5-oxadiazole 2-oxide intermediate IV (from self [3+2] of III)", "smiles": null, "role": "reactive"}, {"name": "[3+2] cycloadduct V between IV and styrene", "smiles": null, "role": "transient"}, {"name": "intermediate VI after N-O cleavage/PT en route to product", "smiles": null, "role": "transient"}, {"name": "iodine radical / I2 (anodic mediator)", "smiles": "[I][I]", "role": "reactive"}, {"name": "trifluoromethyl radical", "smiles": "[CH0](F)(F)F", "role": "reactive"}], "electron_flow": "At the anode, I- is oxidized to I•/I2 and CF3CO2- to •CF3 + CO2; at the cathode, the t-BuOK-generated aci-nitromethane (I) is reduced with N-O bond cleavage to give II. Anodic radicals then perform HAT on II to give dipole III, which self-[3+2] dimerizes to 1,2,5-oxadiazole 2-oxide IV; IV undergoes [3+2] with styrene and PT to deliver the isoxazoline aldoxime.", "rate_determining_step": "Self-[3+2] cycloaddition of III to form IV (DFT activation barrier ~112 kJ/mol), consistent with the 60 °C requirement; the C(sp3)-H cleavage of nitromethane is NOT rate-determining (secondary KIE 0.74).", "probe_reagents": [{"name": "d8-styrene (1a-d8)", "smiles": "[2H]c1c([2H])c([2H])c(C([2H])=C([2H])[2H])c([2H])c1[2H]", "purpose": "isotope_label", "observation": "Gave 2a-d8 in 87% yield, confirming styrene H/D incorporation into product"}, {"name": "CD3NO2 vs CH3NO2 (intermolecular competition)", "smiles": "[2H]C([2H])([2H])[N+](=O)[O-]", "purpose": "KIE", "observation": "kH/kD = 0.74 (avg of four runs); inverse secondary KIE indicates C(sp3)-H cleavage of MeNO2 is not in the RDS and rehybridization occurs"}, {"name": "current on/off control", "smiles": null, "purpose": "redox_probe", "observation": "No reaction without current; electrical input crucial"}, {"name": "Cyclic voltammetry of components", "smiles": null, "purpose": "redox_probe", "observation": "n-Bu4NI Ep_ox = 0.85 V, CF3CO2Na = 1.12 V, 1,4-dioxane = 2.50 V vs Ag/AgCl; styrene (2.53 V) and 2a (2.60 V) are not directly oxidized"}, {"name": "HRMS detection of IV", "smiles": null, "purpose": "intermediate_trap", "observation": "1,2,5-oxadiazole 2-oxide intermediate IV detected by HRMS"}, {"name": "CO2 detection experiment", "smiles": "O=C=O", "purpose": "intermediate_trap", "observation": "CO2 evolution confirms anodic decarboxylation of CF3CO2-"}, {"name": "Control omission of CF3CO2Na, t-BuOK, n-Bu4NI, dioxane", "smiles": null, "purpose": "other", "observation": "Each component necessary; no product without n-Bu4NI (no current) or without both CF3CO2Na and t-BuOK"}], "evidence_types_used": ["KIE", "H/D_labeling", "cyclic_voltammetry", "on/off_light_or_current", "DFT", "isolation_of_intermediate", "intermediate_trap_other"], "evidence_strength": "strong", "notes": "DFT (M06-2X/6-31+G(d,p), LanL2DZ for I, SMD MeNO2) supports HAT from II being easier with I• and •CF3 than with I2, and characterizes the two [3+2] cycloadditions (self-dimerization of III to IV, then with styrene) as concerted but asynchronous. Inverse secondary KIE (0.74) reflects sp3→sp2 rehybridization at the MeNO2 carbon rather than C-H cleavage in RDS."}
